### PR TITLE
feat(ClassicalMechanics): add RigidBodyMotion with centre-of-mass velocity

### PR DESCRIPTION
**Pull request by giuseppesorge**
## Summary

Toward #893 (API: Rigid body). Adds the time-dependent configuration of a rigid body and the kinematics of its centre of mass — the first of the four open Landau–Lifshitz §32 items. This PR covers the **centre-of-mass velocity**; angular velocity, kinetic energy and Euler angles will follow in separate PRs.

## Added — `Physlib/ClassicalMechanics/RigidBody/Motion.lean` (new file)

| Declaration | Kind | Meaning |
|---|---|---|
| `RigidBodyMotion d` | structure, extends `RigidBody d` | a moving rigid body: the body plus the inertial-frame centre-of-mass trajectory `comTrajectory : Time → Space d` and orientation `orientation : Time → SO(d)` |
| `centerOfMassVelocity` | def | `∂ₜ comTrajectory` — the velocity `V` of the centre of mass (§32, `v = V + Ω × r`) |
| `centerOfMassVelocity_eq` | lemma | definitional unfolding |
| `centerOfMassVelocity_of_comTrajectory_const` | lemma | a stationary centre of mass has zero velocity |
| `linearMomentum` | def | `mass • centerOfMassVelocity` — total linear momentum `P = M V` |
| `linearMomentum_eq` | lemma | definitional unfolding |

One sorted `import` line is added to `Physlib.lean`.

## Reviewer map

1. `RigidBodyMotion` — the configuration data type (the core contribution).
2. `centerOfMassVelocity` and its two lemmas.
3. `linearMomentum` and its lemma.

`orientation` is intentionally included now even though it is unused in this PR: it is the body's time-dependent rotation about the centre of mass, and is the foundation for the angular-velocity and kinetic-energy follow-up PRs toward #893.

## Scope — what is not changed

No existing declaration is modified; this only adds one new file plus one import. The corresponding `informal_*` stubs in `RigidBody/Basic.lean` are left in place.

## Verification

- `lake build Physlib.ClassicalMechanics.RigidBody.Motion` — succeeds.
- `lake exe runLinter Physlib.ClassicalMechanics.RigidBody.Motion` — zero errors originating from the new file.
- `./scripts/lint-style.sh` — passes; no trailing whitespace, no lines over 100 chars; `git diff --check` clean.
- `#print axioms` on all four new declarations — only `[propext, Classical.choice, Quot.sound]`.

Toward #893.

### CODE REVIEW

File: Physlib/ClassicalMechanics/RigidBody/Motion.lean [hunk 1]
```diff
@@ -0,0 +1,66 @@
...
+trajectory of its centre of mass and its time-dependent orientation (a rotation about the centre
+of mass). -/
+structure RigidBodyMotion (d : ℕ) extends RigidBody d where
+  /-- The position of the centre of mass in the inertial frame as a function of time. -/
+  comTrajectory : Time → Space d
+  /-- The orientation of the body, a rotation about the centre of mass, as a function of time. -/
+  orientation : Time → Matrix.specialOrthogonalGroup (Fin d) ℝ
+
+namespace RigidBodyMotion
+
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/RigidBody/Motion.lean:41]: Could we potentially add the mass distribution of the rigid body at time `t`, I think this will be a good litmus test about whether we have got a sensible definition for `RigidBodyMotion`.

**Comment by giuseppesorge** [comment]
Thanks — added `massDistribution M t`, the pushforward of the body's mass distribution along the rigid displacement `gₜ(y) = R(t)·(y − centerOfMass) + comTrajectory(t)`. Two checks confirm the `RigidBodyMotion` data is wired correctly: the total mass is preserved (`massDistribution_mass`), and for nonzero mass the centre of mass of the moved body is exactly `comTrajectory t` (`massDistribution_centerOfMass`).

**Comment by giuseppesorge** [comment]
-awaiting-author

File: Physlib/ClassicalMechanics/RigidBody/Motion.lean [hunk 2]
```diff
@@ -0,0 +1,168 @@
...
+    (f : ι → C^⊤⟮𝓘(ℝ, Space d), Space d; 𝓘(ℝ, ℝ), ℝ⟯) (y : Space d) :
+    (∑ j ∈ s, f j) y = ∑ j ∈ s, f j y := by
+  classical
+  induction s using Finset.induction with
+  | empty => simp
+  | insert a s ha ih =>
+    simp only [Finset.sum_insert ha, ContMDiffMap.coe_add, Pi.add_apply, ih]
+
+/-- The `k`-th coordinate of the rigid displacement applied to `y`. -/
+private lemma displacement_apply {d : ℕ} (M : RigidBodyMotion d) (t : Time) (y : Space d)
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/RigidBody/Motion.lean]: Would move this directly under `displacement` and make it not a private lemma.

File: Physlib/ClassicalMechanics/RigidBody/Motion.lean [hunk 3]
```diff
@@ -0,0 +1,168 @@
...
+  fun t => M.mass • M.centerOfMassVelocity t
+
+lemma linearMomentum_eq {d : ℕ} (M : RigidBodyMotion d) :
+    M.linearMomentum = fun t => M.mass • M.centerOfMassVelocity t := rfl
+
+/-- The rigid displacement carrying the body frame into the inertial frame at time `t`: the
+rotation `orientation t` about the centre of mass, followed by the translation placing the centre
+of mass at `comTrajectory t`. -/
+noncomputable def displacement {d : ℕ} (M : RigidBodyMotion d) (t : Time) : Space d → Space d :=
+  fun y => ⟨fun k => ∑ j, (M.orientation t).val k j * (y j - M.centerOfMass j) +
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/RigidBody/Motion.lean:73]: Maybe for a future PR (but could be added as a `TODO` item now), it might be worth defining group action on RigidBodyMotion of the rotation and translation group, and then defining the displacement through those group actions.

File: Physlib/ClassicalMechanics/RigidBody/Motion.lean (hunk 2 above)
Comment (giuseppesorge) [reply Physlib/ClassicalMechanics/RigidBody/Motion.lean]: Done — moved it directly under `displacement` and made it a public lemma.

File: Physlib/ClassicalMechanics/RigidBody/Motion.lean (hunk 3 above)
Comment (giuseppesorge) [reply Physlib/ClassicalMechanics/RigidBody/Motion.lean:73]: Added as a tracked `TODO` above `displacement`, to define the rotation/translation group action and recover `displacement` as its composite in a follow-up PR.

**Comment by jstoobysmith** [comment]
@giuseppesorge btw I use a filter for awaiting-author so it helps if you remove that label once you are done with your changes :). 

You can comment with 

-awaiting-author 

and the label will go automatically.

**Review by jstoobysmith — APPROVED** [review]
Looks good - approved.
